US08975265B2
1-[4-(7-methoxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutylamine
To a mixture of crude {1-[4-(7-methoxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (550 mg) in DCM (3 mL) and methanol (1.9 mL) was added a solution of 4 M hydrogen chloride in dioxane (5.8 mL) and the mixture was stirred for 2 hours at rt. The mixture was poured onto ice, made alkaline with aqueous sodium hydroxide (2 N) and extracted three times with a mixture of DCM/methanol. The combined organic phases were washed with brine, dried and concentrated in vacuo. Purification was achieved by chromatography [silica; gradient elution: DCM to 8:2 DCM/ethanol] to give the title compound (220 mg).

reactant | {1-[4-(7-methoxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 550 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=N2)OC)C1C1=CC=CC=C1)=O | C28H30N4O3
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1.9 mL | CO | CH4O
solvent | dioxane | 5.8 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(7-methoxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutylamine | 220 mg | COC1=NC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2 | C23H22N4O
